US08859571B2
A mixture of 3-({7-[(3-chloropropyl)oxy]-4-quinazolinyl}amino)-4-(dimethylamino)-N-methylbenzenesulfonamide (50 mg, 0.111 mmol) and morpholine (0.048 mL, 0.556 mmol) in MeOH (1 mL) was stirred at 90° C. for 3 days before being cooled and concentrated. The residue was triturated with Et2O-EtOAc and the resulting solid was collected by filtration, washed with Et2O, and dried to give 4-(dimethylamino)-N-methyl-3-[(7-{[3-(4-morpholinyl)propyl]oxy}-4-quinazolinyl)amino]benzenesulfonamide hydrochloride (33 mg, 48%) as an off-white solid.

reactant | 3-({7-[(3-chloropropyl)oxy]-4-quinazolinyl}amino)-4-(dimethylamino)-N-methylbenzenesulfonamide | 0.111 mmol, 50 mg | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC=1C=C(C=CC1N(C)C)S(=O)(=O)NC | C20H24ClN5O3S
reactant | morpholine | 0.556 mmol, 0.048 mL | N1CCOCC1 | C4H9NO
solvent | MeOH | 1 mL | CO | CH4O
product | 4-(dimethylamino)-N-methyl-3-[(7-{[3-(4-morpholinyl)propyl]oxy}-4-quinazolinyl)amino]benzenesulfonamide hydrochloride | 33 mg, 48% | Cl.CN(C1=C(C=C(C=C1)S(=O)(=O)NC)NC1=NC=NC2=CC(=CC=C12)OCCCN1CCOCC1)C | InChI=1S/C24H32N6O4S.ClH/c1-25-35(31,32)19-6-8-23(29(2)3)22(16-19)28-24-20-7-5-18(15-21(20)26-17-27-24)34-12-4-9-30-10-13-33-14-11-30;/h5-8,15-17,25H,4,9-14H2,1-3H3,(H,26,27,28);1H
